US05811389
A mixture of 360 mg (0.67 mmol) of benzyl (6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-4-yl)acetate, 91.7 mg (0.80 mmol) of glutaric anhydride and. 63.7 mg (0.80 mmol) of pyridine in 5 ml of toluene was treated with 10 mg of N,N-dimethylaminopyridine. The mixture was heated to 110° under argon for 48 hours and then poured into ice-water, whereupon the mixture was acidified with 1N hydrochloric acid and exhaustively extracted with methylene chloride. The organic phase was dried over magnesium sulphate and concentrated. The residue was chromatographed on silica gel with chloroform/methanol (9:1), whereupon 310 mg (71%) of 5-(4-benzyloxycarbonylmethyl-6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-10yl)-5-oxo-pentanoic acid were obtained as a white solid of m.p. 65°-68°.

reactant | benzyl (6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-4-yl)acetate | 0.67 mmol, 360 mg | C(C)(C)(C)OC(=O)C1=C2SC=3C(=C(C=C(C3NC2=CC=C1OC)CN)OC)CC(=O)OCC1=CC=CC=C1 | C29H32N2O6S
reactant | glutaric anhydride | 0.80 mmol, 91.7 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | pyridine | 0.80 mmol, 63.7 mg | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-benzyloxycarbonylmethyl-6-tert.-butoxycarbonyl-aminomethyl-3,7-dimethoxy-phenothiazin-10yl)-5-oxo-pentanoic acid | 310 mg, 71% | C(C1=CC=CC=C1)OC(=O)CC1=C(C=C(C=2N(C3=CC=C(C(=C3SC12)C(=O)OC(C)(C)C)OC)C(CCCC(=O)O)=O)CN)OC | C34H38N2O9S
